US07842685B2
A mixture of 5-(1-phenylcyclopropyl)-2-(1,2,3,4-tetrahydroisoquinolin-6-yl)thiazolo[5,4-b]pyridine (97 mg, 0.252 mmol), triethylamine (0.053 mL, 0.377 mmol), and methyl 2-bromoacetate (0.024 mL, 0.254 mmol) in DCM (2.0 mL) was stirred at 25° C. for 30 min. Additional methyl 2-bromoacetate (0.024 mL, 0.254 mmol) was then added, and the resulting mixture was stirred at 25° C. for 30 min. The resulting suspension was then concentrated onto silica gel and chromatographically purified (0-100% EtOAc/hexanes) to provide methyl 2-(6-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetate as a white solid. MS (ESI) m/z: Calculated: 455.2; Observed: 456.0 (M++1).

reactant | 5-(1-phenylcyclopropyl)-2-(1,2,3,4-tetrahydroisoquinolin-6-yl)thiazolo[5,4-b]pyridine | 0.252 mmol, 97 mg | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1CCNCC1=CC2 | C24H21N3S
reactant | triethylamine | 0.377 mmol, 0.053 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 2-bromoacetate | 0.254 mmol, 0.024 mL | BrCC(=O)OC | C3H5BrO2
reactant | methyl 2-bromoacetate | 0.254 mmol, 0.024 mL | BrCC(=O)OC | C3H5BrO2
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(6-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetate | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1CCN(CC1=CC2)CC(=O)OC | C27H25N3O2S
